US06015818
To a suspension of 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dimethyl-3-(phthalimidoacetylamino)benzene (57.4 g) and sodium hydride (4.78 g) in N,N-dimethylformamide (287 ml) was dropwise added methyl iodide (15.5 g) under ice-cooling, and the mixture was stirred for 15 minutes at the same temperature and for 2 hours at ambient temperature. Water and ethyl acetate were added thereto, and the resulting precipitate was collected by filtration and washed with water and ethyl acetate to give 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dimethyl-3-[N-methyl-N-(phthalimidoacetyl)amino]benzene (28.18 g) as colorless crystals.

reactant | 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dimethyl-3-(phthalimidoacetylamino)benzene | 57.4 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C(=CC=C1C)NC(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C | C35H36N2O4Si
reactant | sodium hydride | 4.78 g | [H-].[Na+]
reactant | methyl iodide | 15.5 g | CI | CH3I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 287 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dimethyl-3-[N-methyl-N-(phthalimidoacetyl)amino]benzene | 28.18 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C(=CC=C1C)N(C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C)C | C36H38N2O4Si
